US07709645B2
5-Bromo-3-(2-ethyl-2H-pyrazol-3-yl)-1H-pyrrolo[2,3-b]pyridine was dissolved in N,N-dimethylforamide at 4° C. To the solution was added sodium hydride in small portions. The flask was warmed to room temperature and stirred for 1 hour. To the mixture was added chloromethyl pivalate. The reaction mixture was stirred for 2 hours at room temperature, and quenched with methanol. Saturated ammonium chloride solution was added, and the mixture was concentrated in vacuo. The residue was dissolved in dichloromethane, and the organic layer was washed four times with a saturated solution of sodium bicarbonate. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was dissolved in acetone. The insoluble residue remaining was filtered off and discarded. The filtrate was concentrated in vacuo and the crude material re-crystallized to afford 2,2-dimethyl-propionic acid 5-bromo-3-(2-ethyl-2H-pyrazol-3-yl)-pyrrolo[2,3-b]pyridin-1-ylmethyl ester. MS: m/z 405.3+407.3 (M+H+).

reactant | 5-Bromo-3-(2-ethyl-2H-pyrazol-3-yl)-1H-pyrrolo[2,3-b]pyridine | BrC=1C=C2C(=NC1)NC=C2C=2N(N=CC2)CC | C12H11BrN4
reactant | sodium hydride | [H-].[Na+]
reactant | chloromethyl pivalate | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | N,N-dimethylforamide | CN(C=O)C | C3H7NO
product | 2,2-dimethyl-propionic acid 5-bromo-3-(2-ethyl-2H-pyrazol-3-yl)-pyrrolo[2,3-b]pyridin-1-ylmethyl ester | BrC=1C=C2C(=NC1)N(C=C2C=2N(N=CC2)CC)COC(C(C)(C)C)=O | C18H21BrN4O2
